US06673803B2
A solution of diethyl azodicarboxylate (209 mg, 1.2 mmol) in methylene chloride (1 ml) and then (S)-1-(3-hydroxypropyl)-pyrrolidine-2-carboxamide (97 mg, 0.56 mmol) was added dropwise to a suspension of 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (146 mg, 0.4 mmol), (prepared as described for the starting material in Example 48), and triphenylphosphine (314 mg, 1.2 mmol) in methylene chloride (4 ml) under nitrogen. The mixture was stirred for 1 hour at ambient temperature and further triphenylphosphine (109 mg, 0.4 mmol) and (S-1-(3-hydroxypropyl)-pyrrolidine-2-carboxamide (40 mg, 0.23 mmol) were added followed by the dropwise addition of diethyl azodicarboxylate (70 mg, 0.4 mmol). The mixture was stirred for 30 minutes at ambient temperature and further (S)-1-(3-hydroxypropyl)-pyrrolidine-2-carboxamide (34 mg, 0.2 mmol) was added. The mixture was then stirred for 2 hours at ambient temperature and the mixture was purified by pouring directly onto a column of silica and eluting with methylene chloride/ethyl acetate/methanol (60/35/5). The purified product was triturated with ether, collected by filtration, washed with ether and dried under vacuum. The solid was dissolved in methylene chloride and 3M hydrogen chloride in ethyl acetate (0.4 ml) was added. The resulting precipitate was collected by filtration, washed with ethyl acetate and dried under vacuum to give (S)-4-(4-bromo-2-fluoroanilino)-7-(3-(2-carbamoylpyrrolidin-1-yl)propoxy)-6-methoxyquinazoline hydrochloride (110 mg, 47%).

reactant | diethyl azodicarboxylate | 1.2 mmol, 209 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (S)-1-(3-hydroxypropyl)-pyrrolidine-2-carboxamide | 0.56 mmol, 97 mg | OCCCN1[C@@H](CCC1)C(=O)N | C8H16N2O2
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.4 mmol, 146 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | triphenylphosphine | 1.2 mmol, 314 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.4 mmol, 109 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.4 mmol, 70 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (S)-1-(3-hydroxypropyl)-pyrrolidine-2-carboxamide | 0.2 mmol, 34 mg | OCCCN1[C@@H](CCC1)C(=O)N | C8H16N2O2
reactant | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-(4-bromo-2-fluoroanilino)-7-(3-(2-carbamoylpyrrolidin-1-yl)propoxy)-6-methoxyquinazoline hydrochloride | 110 mg, 47% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCN2[C@@H](CCC2)C(N)=O)C=C1)F | InChI=1S/C23H25BrFN5O3.ClH/c1-32-20-11-15-18(27-13-28-23(15)29-17-6-5-14(24)10-16(17)25)12-21(20)33-9-3-8-30-7-2-4-19(30)22(26)31;/h5-6,10-13,19H,2-4,7-9H2,1H3,(H2,26,31)(H,27,28,29);1H/t19-;/m0./s1
